* G:\My Drive\Graduate Reserach\Qual\LTSpice\Buck_sync.asc
V1 N001 0 10
L1 N002 out 20m
M1 N001 NC_01 N002 N070 BSC032NE2LS
C1 out 0 10µ
I1 out 0 4
M2 N002 NC_02 0 0 BSC032NE2LS
L2 N070 N002 15
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jared\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.ic V(out)=20 I(L1)=-10
.backanno
.end
